US07989438B2
Step 6: methyl 1-allyl-3-cyclohexyl-2-[2-(hydroxymethyl)-4-methoxyphenyl]-1H-indole-6-carboxylate
Methyl 1-allyl-3-cyclohexyl-2-(4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)-1H-indole-6-carboxylate (1 eq) was dissolved in THF (0.28M solution) and a 1M solution of tetrabutylammonium fluoride in THF (1 eq) was added. The mixture was stirred at RT for 2 h, then all volatiles were evaporated in vacuo and the residual material was dissolved in Et2O. The solution was washed with 1N HCl, saturated aq. NaHCO3 solution and with brine. The organic phase was dried over Na2SO4 and evaporated in vacuo. The residual material was purified by FC (PE:EtOAc, 8:2). After evaporation of the solvents the product was obtained as colourless foam (88%). (ES+): m/z 434.2 (M+H)+.

reactant | Methyl 1-allyl-3-cyclohexyl-2-(4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)-1H-indole-6-carboxylate | 1 eq | C(C=C)N1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=C(C=C1)OC)CO[Si](C(C)C)(C(C)C)C(C)C | C36H51NO4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 0.28M | C1CCOC1 | C4H8O
solvent | THF | 1 eq | C1CCOC1 | C4H8O
product | methyl 1-allyl-3-cyclohexyl-2-[2-(hydroxymethyl)-4-methoxyphenyl]-1H-indole-6-carboxylate | 88% | C(C=C)N1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=C(C=C1)OC)CO | C27H31NO4
